US07385065B2
Preparation of N-{2-[(3S)-3-acetoxy-1-pyrrolidinyl]-(1S)-1-phenylethyl}-2,2-diphenyl-N-methylacetamide (compound Ic)
30 ml of acetic anhydride and 15 ml of triethylamine are added to 5.0 grams (11.0 mmol) of N-methyl-N-[(1S)-1-phenyl-2-((3S)-3-hydroxy-pyrrolidin-1-yl)ethyl]-2,2-diphenylacetamide, hydrochloride, and the mixture is heated for two hours on a steam bath. The reaction mixture is subsequently evaporated to dryness, and the residue is taken up in ether and washed with bicarbonate solution. The organic phase is subsequently dried, and the solvent is distilled off. The resultant residue is purified by column chromatography on silica gel with diethyl ether/methanol (99:1) as eluent. The resultant crude product of N-{2-[(3S)-3-acetoxy-1-pyrrolidinyl]-(1S)-1-phenylethyl}-2,2-diphenyl-N-methylacetamide can be purified further by taking up in diethyl ether, precipitation by addition of ethereal HCl, filtering-off of the resultant crystals under reduced pressure, washing of the crystals with ether and drying in air (Rf=0.6 (TLC on silica gel 6 F254 with dichloromethane/methanol (8:2) as eluent)).

reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-methyl-N-[(1S)-1-phenyl-2-((3S)-3-hydroxy-pyrrolidin-1-yl)ethyl]-2,2-diphenylacetamide, hydrochloride | 11.0 mmol, 5.0 grams | Cl.CN(C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)[C@H](CN1C[C@H](CC1)O)C1=CC=CC=C1
solvent | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
product | N-{2-[(3S)-3-acetoxy-1-pyrrolidinyl]-(1S)-1-phenylethyl}-2,2-diphenyl-N-methylacetamide | C(C)(=O)O[C@@H]1CN(CC1)C[C@H](C1=CC=CC=C1)N(C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C29H32N2O3
